US08202866B2
2-(4-Bromo-phenyl)-N-(4-chloro-phenyl)-3-(diethylamino-pyrrolidin-1-yl)-propionamide
To a solution of 2-(4-bromo-phenyl)-3-(3-diethylamino-pyrrolidin-1-yl)-propionic acid (590 mg, 1.6 mmol), DIPEA (1.03 g, 8 mmol), and Pybrop (1.12 g, 2.4 mmol) in CH2Cl2 (10 mL) was added 4-chloro-phenylamine (306 mg, 2.4 mmol). This mixture was stirred overnight at room temperature and then evaporated. The mixture redissolved in EtOAc (20 mL) and washed with water, brine, dried with Na2SO4, concentrated in vacuo. The residue was purified by flash column chromatography to give a white solid. MS: calc'd 478 (MH+), exp 478 (MH+).

reactant | 2-(4-bromo-phenyl)-3-(3-diethylamino-pyrrolidin-1-yl)-propionic acid | 1.6 mmol, 590 mg | BrC1=CC=C(C=C1)C(C(=O)O)CN1CC(CC1)N(CC)CC | C17H25BrN2O2
reactant | DIPEA | 8 mmol, 1.03 g | CCN(C(C)C)C(C)C | C8H19N
reactant | Pybrop | 2.4 mmol, 1.12 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | 4-chloro-phenylamine | 2.4 mmol, 306 mg | ClC1=CC=C(C=C1)N | C6H6ClN
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Bromo-phenyl)-N-(4-chloro-phenyl)-3-(diethylamino-pyrrolidin-1-yl)-propionamide | BrC1=CC=C(C=C1)C(C(=O)NC1=CC=C(C=C1)Cl)CN1C(CCC1)N(CC)CC | C23H29BrClN3O
